US08809339B2
2-(3-(((2-(Diethylamino)ethyl)(methyl)amino)methyl)benzamido)-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl)benzamide
Into a 50-mL round bottom flask, was placed a solution of 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl)benzamide (200 mg, 0.45 mmol, 1.00 equiv) in dichloromethane (5 mL), 3-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid (120 mg, 0.45 mmol, 1.00 equiv), EDCI (130 mg, 0.68 mmol, 1.50 equiv), and 4-dimethylaminopyridine (83 mg, 0.68 mmol, 1.50 equiv). The resulting solution was stirred for 10 h at 25° C. The crude product (200 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 32.2 mg (9%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 11.45 (s, 1H), 11.29 (s, 1H), 9.18 (s, 2H), 8.12-8.21 (m, 3H), 8.03 (s, 1H), 7.89-7.91 (d, J=6.6 Hz, 1H), 7.75-7.84 (m, 2H), 7.62-7.66 (m, 2H), 7.51 (s, 1H), 7.28-7.31 (d, J=8.1 Hz, 1H), 3.37 (s, 2H), 3.26 (s, 4H), 3.10-3.18 (m, 4H), 1.58-1.68 (m, 6H), 1.15-1.20 (m, 6H). MS (ES, m/z): 688.00 [M+]+.

reactant | 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl)benzamide | 0.45 mmol, 200 mg, 1.00 equiv | NC1=C(C(=O)NC2=NC=C(C=N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H22F3N5O
reactant | 3-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid | 0.45 mmol, 120 mg, 1.00 equiv | C(C)N(CCN(C)CC=1C=C(C(=O)O)C=CC1)CC | C15H24N2O2
reactant | EDCI | 0.68 mmol, 130 mg, 1.50 equiv | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.68 mmol, 83 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(3-(((2-(Diethylamino)ethyl)(methyl)amino)methyl)benzamido)-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl)benzamide | 32.2 mg, 9% | C(C)N(CCN(C)CC=1C=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=N3)C3=CC(=CC=C3)C(F)(F)F)C=C(C=C2)N2CCCCC2)C=CC1)CC | C38H44F3N7O2
